US07452909B2
2-Chloromethyl-3-methyl-pyridine hydrochloride
The title compound was prepared in accordance with the general method of example E from 2-(hydroxymethyl)-3-methylpyridine and thionylchloride.

reactant | 2-(hydroxymethyl)-3-methylpyridine | OCC1=NC=CC=C1C | C7H9NO
reactant | thionylchloride | S(=O)(Cl)Cl | Cl2OS
product | 2-Chloromethyl-3-methyl-pyridine hydrochloride | Cl.ClCC1=NC=CC=C1C | InChI=1S/C7H8ClN.ClH/c1-6-3-2-4-9-7(6)5-8;/h2-4H,5H2,1H3;1H
